US06051712
In an analogous manner to that described in Example 1 g), by alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-[4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl]-piperidine-1-carboxylate [Example 123 b)] with 3-chloromethyl-5-methoxy-1-(3-methoxy-propoxy)-naphthalene there was obtained tert-butyl (3RS,4RS)-3-[8-methoxy-4-(3-methoxy-propoxy)-naphthalen-2-ylmethoxy]-4-{4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl}-piperidine-1-carboxylate as a pale yellow, viscous oil; MS: 706 (M+H)+.

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-[4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl]-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC=1SC=CC1)C(=O)OC(C)(C)C | C24H33NO5S
reactant | 3-chloromethyl-5-methoxy-1-(3-methoxy-propoxy)-naphthalene | ClCC=1C=C(C2=CC=CC(=C2C1)OC)OCCCOC | C16H19ClO3
product | tert-butyl (3RS,4RS)-3-[8-methoxy-4-(3-methoxy-propoxy)-naphthalen-2-ylmethoxy]-4-{4-[3-(thiophen-2-ylmethoxy)-propoxy]-phenyl}-piperidine-1-carboxylate | COC=1C=CC=C2C(=CC(=CC12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC=1SC=CC1)C(=O)OC(C)(C)C)OCCCOC | C40H51NO8S
